US06015925
p-tert-butylbenzoic acid (10.1 g) and thionyl chloride (20.2 g) were mixed with 100 ml of chloroform, followed by heating under reflux for 5 hours. After the solvent and the remaining thionyl chloride were distilled off under reduced pressure, the residue was dissolved in 10 ml of chloroform. The resulting chloroform solution was added dropwise to 17 ml of a 40% solution of methylamine in methanol under ice cooling. The temperature of the resulting mixture was allowed to rise to room temperature, at which the mixture was stirred for 48 hours. To the reaction mixture, 100 ml of 2 N hydrochloric acid were added. The resulting mixture was extracted with 100 ml of dichloromethane, and the organic layer was added first with water and then with a saturated aqueous solution of sodium chloride so that the organic layer was washed. The organic layer was washed further with a saturated aqueous solution of sodium hydrogencarbonate and the solvent was distilled off, whereby N-methyl-4-tert-butylbenzoic acid amide was obtained. The acid amide was dissolved in 100 ml of diethyl ether. After 3 g of lithium aluminum hydride were mixed, the resulting mixture was heated for 6 hours under reflux under a nitrogen gas atmosphere. After water was added under ice cooling to terminate the reaction, the insoluble matter was collected by filtration and was then washed with diethyl ether. The filtrate and the washing were combined and then washed with water, and the solvent was dissolved off under reduced pressure, whereby 3.69 g of N-(4-tert-butylbenzyl)methylamine were obtained. On the side, 9.83 g of 3-phenyltoluene were dissolved in 100 ml of carbon tetrachloride, followed by the addition of 10.5 g of N-bromosuccinimide and 150 mg of benzoyl peroxide. The resulting mixture was heated for 3 hours under reflux. The reaction mixture was allowed to cool down. The insoluble matter was filtered off. Subsequent to concentration of the filtrate, the resulting concentrate was purified by chromatography on a silica gel column (eluent: hexane/ethyl acetate=10/1), whereby 6.51 g of 3-(bromomethyl)biphenyl were obtained (yield: 45%). N-(4-tert-butylbenzyl)methylamine (2.78 g) and the 3-(bromomethyl)biphenyl were reacted at room temperature for 24 hours in the presence of sodium carbonate in N,N-dimethylformamide. The reaction mixture was extracted with chloroform and a saturated aqueous solution of sodium chloride. The organic layer was collected and then concentrated. The resulting concentrate was purified by chromatography on a silica gel column (eluent:hexane/chloroform=9/1), whereby 2.97 g of 4-tert-butyl-N-methyl-N-(3-phenylbenzyl)benzylamine (Compound 2) were obtained as a yellow oil (yield: 60.9%). Melting point: 175-176° C. The following is its NMR spectrum data.

reactant | 3-phenyltoluene | 9.83 g | C1(=CC=CC=C1)C=1C=C(C=CC1)C | C13H12
reactant | N-bromosuccinimide | 10.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 150 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(bromomethyl)biphenyl | 6.51 g, yield: 45% | BrCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11Br
